US07595319B2
4-{5-Amino-6-[(pyridin-3-ylamino)carbonyl]pyrazin-2-yl}benzoic Acid
Pd(PPh3)4 (1.05 g, 0.91 mmol) was added to a to a solution of 3-amino-6-bromo-N-pyridin-3-ylpyrazine-2-carboxamide (2.0 g, 6.8 mmol), 4-carboxyphenylboronic acid (1.12 g, 6.7 mmol), and sodium carbonate (2.88 g, 27.2 mmol) in tetrahydrofuran/water, (1:1, 240 mL), and the resulting mixture was heated at 75° C. for 16 days. The solvent was evaporated and the residue dissolved in water. The aqueous phase was washed with ethyl acetate and then neutralized (pH 7) using HCl (10% aq.). The formed crystals were filtered off and dried in vacuo to give 1.7 g (77% yield) of the title compound: MS (ES) m/z 336 (M++1).

reactant | 3-amino-6-bromo-N-pyridin-3-ylpyrazine-2-carboxamide | 6.8 mmol, 2.0 g | NC=1C(=NC(=CN1)Br)C(=O)NC=1C=NC=CC1 | C10H8BrN5O
reactant | 4-carboxyphenylboronic acid | 6.7 mmol, 1.12 g | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | sodium carbonate | 27.2 mmol, 2.88 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran water | 240 mL | O1CCCC1.O
catalyst | Pd(PPh3)4 | 0.91 mmol, 1.05 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-{5-Amino-6-[(pyridin-3-ylamino)carbonyl]pyrazin-2-yl}benzoic Acid | 1.7 g, 77% yield | NC=1N=CC(=NC1C(=O)NC=1C=NC=CC1)C1=CC=C(C(=O)O)C=C1 | C17H13N5O3
